US08304371B2
Under argon atmosphere, a mixed solution of 2-bromo-4-[(methylsulfanyl){[(trimethysilyl)methyl]imino}methyl]benzyl acetate (0.90 g) and 1,3-dichloro-5-(3,3,3-trifluoroprop-1-en-2-yl)benzene (0.56 g) in THF was cooled to −5° C. to be stirred, and a solution of tetrabutylammonium fluoride (0.56 ml, of 1.0 M in THF) was added thereto gradually. The reaction mixture was stirred for 20 hours at room temperature. The reaction mixture was diluted with t-butyl methyl ether and washed with water and a saturated aqueous brine, subsequently dried over magnesium sulfate. After filtering the reaction mixture, the solvent was distilled off under reduced pressure, and the resulting mixture was purified by silica gel chromatography, to obtain 2-bromo-4-[3-(3,5-dichlorophenyl)-3-(trifluoromethyl)-3,4-dihydro-2H-pyrrol-5-yl]benzyl acetate (1.1 g).

reactant | 2-bromo-4-[(methylsulfanyl){[(trimethysilyl)methyl]imino}methyl]benzyl acetate | 0.90 g | C(C)(=O)OCC1=C(C=C(C=C1)C(=NC[Si](C)(C)C)SC)Br | C15H22BrNO2SSi
reactant | 1,3-dichloro-5-(3,3,3-trifluoroprop-1-en-2-yl)benzene | 0.56 g | ClC1=CC(=CC(=C1)C(=C)C(F)(F)F)Cl | C9H5Cl2F3
reactant | tetrabutylammonium fluoride | 1.0 M, 0.56 ml | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | THF | C1CCOC1 | C4H8O
solvent | t-butyl methyl ether | COC(C)(C)C | C5H12O
product | 2-bromo-4-[3-(3,5-dichlorophenyl)-3-(trifluoromethyl)-3,4-dihydro-2H-pyrrol-5-yl]benzyl acetate | 1.1 g | C(C)(=O)OCC1=C(C=C(C=C1)C=1CC(CN1)(C(F)(F)F)C1=CC(=CC(=C1)Cl)Cl)Br | C20H15BrCl2F3NO2
